US04640915
To a solution of 4-nitrobenzyl (2R, 5R, 6S)-3,7-dioxo-6-(1-methoxy-1-methylethyl)-1-azabicyclo[3.2.0]heptane-2-carboxylate (50.0 mg) and 4-(N,N-dimethylamino)pyridine (1.62 mg) in acetonitrile (2.5 ml) was added dropwise a solution of N,N-diisopropyl-N-ethylamine (27.8 μl) in acetonitrile (0.25 ml), followed by addition of a solution of diphenyl chlorophosphate (28.9 μl) in acetonitrile (0.26 ml) at 0° C. After stirring for one hour at 0° C., a solution of N,N-diisopropyl-N-ethylamine (92.7 μl) in acetonitrile (0.834 ml) and pyridine-4-thiol (15.6 mg) were successively added at -15° C., and the mixture was allowed to stand at -15° C. overnight. The resultant solution was concentrated in vacuo. The residue was diluted with ethyl acetate (10 ml) and washed twice with water and a saturated aqueous sodium chloride. After drying over magnesium sulfate, the ethyl acetate solution was filtered and evaporated. The residue (68.7 mg) was chromatographed on deactivated silica gel (1.5 g) with 10% water, eluting with a mixture of benzene and acetone (100:1 to 6:1) to give 4-nitrobenzyl (5R, 6S)-6-(1-methoxy-1-methylethyl)-7-oxo-3-(4-pyridylthio)-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (51.7 mg) as an amorphous solid.

reactant | 4-nitrobenzyl (2R, 5R, 6S)-3,7-dioxo-6-(1-methoxy-1-methylethyl)-1-azabicyclo[3.2.0]heptane-2-carboxylate | 50.0 mg | O=C1[C@@H](N2C([C@@H]([C@H]2C1)C(C)(C)OC)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C18H20N2O7
reactant | N,N-diisopropyl-N-ethylamine | 27.8 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diphenyl chlorophosphate | 28.9 μl | P(=O)(OC1=CC=CC=C1)(OC1=CC=CC=C1)Cl | C12H10ClO3P
reactant | N,N-diisopropyl-N-ethylamine | 92.7 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | pyridine-4-thiol | 15.6 mg | N1=CC=C(C=C1)S | C5H5NS
catalyst | 4-(N,N-dimethylamino)pyridine | 1.62 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | acetonitrile | 2.5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 0.25 ml | C(C)#N | C2H3N
solvent | acetonitrile | 0.26 ml | C(C)#N | C2H3N
solvent | acetonitrile | 0.834 ml | C(C)#N | C2H3N
product | 4-nitrobenzyl (5R, 6S)-6-(1-methoxy-1-methylethyl)-7-oxo-3-(4-pyridylthio)-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 51.7 mg | COC(C)(C)[C@@H]1[C@H]2CC(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])SC1=CC=NC=C1 | C23H23N3O6S
